US07759337B2
Synthesis of N-cyclopropyl-6-methyl-7-(1-((S)-3-methylmorpholino)phthalazin-6-yl)benzo[d]isoxazol-3-amine
A mixture of (S)-1-(3-methylmorpholino)phthalazin-6-ylboronic acid (0.11 g, 0.41 mmol), N-cyclopropyl-7-iodo-6-methylbenzo[d]isoxazol-3-amine (0.100 g, 0.32 mmol), tetrakis(triphenylphosphine)palladium (18 mg, 0.016 mmol) in 1,4-dioxane (2.0 mL) and 2 N aqueous sodium carbonate (0.2 mL, 0.4 mmol) in a sealed glass tube was heated in a Personal Chemistry microwave at 130° C. for 20 min. The mixture was diluted with EtOAc (30 mL) and washed with saturated aqueous solution of sodium bicarbonate, and brine. The resulting organic solution was then dried over magnesium sulfate and concentrated under reduced pressure. Flash chromatography on silica gel (ethyl acetate: chloroform 80:20) afforded the titled compound as a yellow solid. MS (ESI, pos.ion) m/z: 416.1 (M+1).

reactant | (S)-1-(3-methylmorpholino)phthalazin-6-ylboronic acid | 0.41 mmol, 0.11 g | C[C@H]1COCCN1C1=NN=CC2=CC(=CC=C12)B(O)O | C13H16BN3O3
reactant | N-cyclopropyl-7-iodo-6-methylbenzo[d]isoxazol-3-amine | 0.32 mmol, 0.100 g | C1(CC1)NC1=NOC2=C1C=CC(=C2I)C | C11H11IN2O
reactant | sodium carbonate | 0.4 mmol, 2 N, 0.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.016 mmol, 18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-cyclopropyl-6-methyl-7-(1-((S)-3-methylmorpholino)phthalazin-6-yl)benzo[d]isoxazol-3-amine | C1(CC1)NC1=NOC2=C1C=CC(=C2C=2C=C1C=NN=C(C1=CC2)N2[C@H](COCC2)C)C | C24H25N5O2
